US04600429
Chloromethanephosphonic acid (15.1 g, 115.7 mmoles) and 1,12-diaminododecane (100 g, 0.5 moles) were heated under reflux in water (160 cm3) for 20 hours. The water was then distilled off and ethanol (250 cm3) was added. The phosphonic acid was filtered off and dried. The crude yield was 30.7 g (85%). A sample was purified by recrystallization from water/ethanol to give N-(12-aminododecyl)-aminomethanephosphonic acid monohydrate as a fine white crystalline solid having a melting point of 234° C.

reactant | Chloromethanephosphonic acid | 115.7 mmoles, 15.1 g | ClCP(O)(=O)O | CH4ClO3P
reactant | 1,12-diaminododecane | 0.5 moles, 100 g | NCCCCCCCCCCCCN | C12H28N2
solvent | water | 160 cm3 | O | H2O
product | N-(12-aminododecyl)-aminomethanephosphonic acid monohydrate | O.NCCCCCCCCCCCCNCP(O)(=O)O | InChI=1S/C13H31N2O3P.H2O/c14-11-9-7-5-3-1-2-4-6-8-10-12-15-13-19(16,17)18;/h15H,1-14H2,(H2,16,17,18);1H2
